US04906713
A. 2-(2-Chloroethyl)-tetrahydropyran
Dihydropyran (85 g, 1.01 moles) and 0.2 mL of concentrated HCl were added to a 500 mL 3-necked round-bottomed flask equipped with a magnetic stirrer, a thermocouple, a reflux condenser and a nitrogen bubbler. The mixture was cooled to 0° C., and then 2-chloro-ethan-1-ol (80.5 g, 1.01 moles) was added dropwise at a rate sufficient to maintain the temperature below 10° C. After the addition was complete (about 2 hr.), the mixture was allowed to warm to room temperature and stirred for 1 hr. The clear yellow solution was distilled under vacuum.

reactant | Dihydropyran | 1.01 moles, 85 g | O1CCCC=C1 | C5H8O
reactant | HCl | 0.2 mL | Cl | ClH
reactant | 2-chloro-ethan-1-ol | 1.01 moles, 80.5 g | ClCCO | C2H5ClO
product | 2-(2-Chloroethyl)-tetrahydropyran | ClCCC1OCCCC1 | C7H13ClO
